US05071856
1.7 Grams of 6-{4-[2-(4-chlorobenzoyl)ethyl[-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril, 0.83 g of hydroxylamine hydrochloride and 2.29 g of sodium acetate were dissolved in 40 ml of ethanol and 20 ml of water, and the solution was stirred overnight at room temperature. Then the reaction mixture was concentrated under reduced pressure, then the residue thus obtained was extracted with chloroform, the extract was dried with anhydrous sodium carbonate, then the solvent was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol =50:1), then recrystallized from ethanol to yield 1.2 g of 6-{4[-3-(4-chlorobenzoyl)-3-hydroxyliminopropyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril. White powdery substance. Melting point: 207° C.-209° C. (decomp.).

reactant | 2-(4-chlorobenzoyl)ethyl[-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril | ClC1=CC=C(C(=O)CCC2(C(NC3=CC=CC=C3C2)=O)C(=O)N2CCNCC2)C=C1 | C23H24ClN3O3
reactant | hydroxylamine hydrochloride | 0.83 g | Cl.NO
reactant | sodium acetate | 2.29 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 6-{4[-3-(4-chlorobenzoyl)-3-hydroxyliminopropyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril | 1.2 g | ClC1=CC=C(C(=O)C(CCN2CCN(CC2)C(=O)C=2C=C3CCC(NC3=CC2)=O)=NO)C=C1 | C24H25ClN4O4
